US06051586
A solution of 4-cyclopentyl-butan-1-ol (3.1 g, 22 mmol) in acetonitrile (200 mL) was treated with dibromotriphenylphosphorane (10.1 g, 23.9 mmol). The reaction was stirred for two hours and quenched with water (10 mL). The reaction was diluted with dichloromethane (300 mL) and washed with water (3×100 mL). The organic phase was dried (MgSO4), filtered, and concentrated to yield an oil. The product was passed through a pad of silica to yield (4-bromo-butyl)-cyclopentane as a colorless oil (3.37 g, 76%). 1H NMR (CDCl3, 300 MHz) δ 3.42 (t, 7.0 Hz, 2 H), 1.9-1.7 (m, 4 H), 1.6-1.3 (m, 9 H), 1.07 (m, 2 H).

reactant | 4-cyclopentyl-butan-1-ol | 22 mmol, 3.1 g | C1(CCCC1)CCCCO | C9H18O
reactant | dibromotriphenylphosphorane | 23.9 mmol, 10.1 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | (4-bromo-butyl)-cyclopentane | 3.37 g, 76% | BrCCCCC1CCCC1 | C9H17Br
